US08440679B2
3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)piperidin-4-one [4]
A solution of 1-(2-Methyl-5-nitro-phenyl)-piperidin-4-one [100 mg, 0.426 mmol] in N,N-Dimethylformamide dimethyl acetal (DMA.DMF) [1 ml] was heated to reflux for 12 hrs. After cooling to room temperature, reaction mixture was concentrated under vacuum. The dark brown crude product obtained was further purified by silica gel chromatography using 30-60% ethyl acetate/hexane as eluent to obtain pure desired product i.e., 3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)-piperidin-4-one [4] as orange solid [Yield: 76.2 mg, 62.02%]

reactant | 1-(2-Methyl-5-nitro-phenyl)-piperidin-4-one | 0.426 mmol, 100 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])N1CCC(CC1)=O | C12H14N2O3
solvent | N,N-Dimethylformamide dimethyl acetal | 1 ml | COC(N(C)C)OC | C5H13NO2
product | 3-Dimethylaminomethylene-1-(2-methyl-5-nitro-phenyl)piperidin-4-one | CN(C)C=C1CN(CCC1=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C15H19N3O3
